US07087599B2
A mixture of crude 9a-butyl-4-(4-hydroxyphenyl)-7-methoxy-1,2,9,9a-tetrahydro-3H-fluoren-3-one (787 mg, approx. 2 mmol), cesium carbonate (1.564 g, 4.8 mmol), and 1-(2-chloroethyl)-piperidine monohydrochloride (442 mg, 2.4 mmol) in acetone (5 mL) was stirred and heated in an oil bath at 60° C. for 4 hours. After cooling to room temperature, the mixture was diluted with EtOAc and filtered to remove salts. The filtrate was washed with water and brine, dried over MgSO4, filtered, and evaporated under vacuum to a yellow gum (0.95 g). The crude product was purified by chromatography on EM silica gel 60 (230-400 mesh, 50 mL dry) using 2% MeOH+1% Et3N in EtOAc as eluting solvent. The product containing fractions were evaporated under vacuum and the residue stripped with toluene to provide 9a-butyl-7-methoxy-4-{4-[2-(1-piperidinyl)ethoxy]phenyl}-1,2,9,9a-tetrahydro-3H-fluoren-3-one (912 mg, 96% weight pure) as a pale yellow gum.

reactant | 9a-butyl-4-(4-hydroxyphenyl)-7-methoxy-1,2,9,9a-tetrahydro-3H-fluoren-3-one | approx. 2 mmol, 787 mg | C(CCC)C12CC3=CC(=CC=C3C2=C(C(CC1)=O)C1=CC=C(C=C1)O)OC | C24H26O3
reactant | cesium carbonate | 4.8 mmol, 1.564 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 1-(2-chloroethyl)-piperidine monohydrochloride | 2.4 mmol, 442 mg | Cl.ClCCN1CCCCC1
solvent | acetone | 5 mL | CC(=O)C | C3H6O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 9a-butyl-7-methoxy-4-{4-[2-(1-piperidinyl)ethoxy]phenyl}-1,2,9,9a-tetrahydro-3H-fluoren-3-one | 912 mg, 96% | C(CCC)C12CC3=CC(=CC=C3C2=C(C(CC1)=O)C1=CC=C(C=C1)OCCN1CCCCC1)OC | C31H39NO3
